US05691336
4-Fluoro-α-[(phenylmethyl)amino]benzeneacetic acid (12.2 kg, 47.1 moles) was slurried in methanol (37 L), then hydrogen chloride gas was passed over the mixture. The resulting slurry was stirred at 35°-45° C. for 3 hours, then concentrated to 30-35 L by distillation. Methyl-t-butyl ether (20 L) was added and the batch was seeded with 4-Fluoro-α-[(phenylmethyl)amino]benzeneacetic acid methyl ester hydrochloride. Upon development of the seed-bed, methyl-t-butyl ether (20 L) was added. The slurry was aged for 1 hour, then filtered. The falter cake was washed with methyl-t-butyl ether:methanol (95:5, 8.0 L), then dried under vacuum at 30° C. to give 12.2 kg (84% yield) of 4-fluoro-α-[(phenylmethyl)amino]-benzeneacetic acid methyl ester hydrochloride.

reactant | 4-Fluoro-α-[(phenylmethyl)amino]benzeneacetic acid | 47.1 moles, 12.2 kg | FC1=CC=C(C=C1)C(C(=O)O)NCC1=CC=CC=C1 | C15H14FNO2
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 37 L | CO | CH4O
product | 4-fluoro-α-[(phenylmethyl)amino]-benzeneacetic acid methyl ester hydrochloride | 12.2 kg, 84% yield | Cl.COC(C(C1=CC=C(C=C1)F)NCC1=CC=CC=C1)=O | InChI=1S/C16H16FNO2.ClH/c1-20-16(19)15(13-7-9-14(17)10-8-13)18-11-12-5-3-2-4-6-12;/h2-10,15,18H,11H2,1H3;1H
